US06573273B1
Using the general method of Example 150, 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.5 g, 5.04 mmol) was reacted with propyl isothiocyanate (560 mg, 5.55 mmol) to provide 1.34 g of N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-propylthiourea as a crystalline solid, m.p. 144.5-145.5° C. Analysis: Calculated for C21H30N6S. 0.56 H2O: %C, 61.72; %H, 7.68; %N, 20.56; Found: %C, 61.72; %H, 7.67; %N, 20.56.

reactant | 1-(3-aminopropyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 5.04 mmol, 1.5 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C17H23N5
reactant | propyl isothiocyanate | 5.55 mmol, 560 mg | C(CC)N=C=S | C4H7NS
product | N-[3-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]-N′-propylthiourea | 1.34 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNC(=S)NCCC)CCCC | C21H30N6S
